US05216167
Ethyl 2-ethoxy-4-[N-(α-acetoxymethyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoate
To a solution of ethyl 2-ethoxy-4-[N-(α-hydroxymethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate (0.227 g, 0.5 mmol) and absolute triethylamine (0.126 ml, 0.9 mmol) in absolute chloroform (3 ml), a solution of acetyl chloride (0.063 ml, 0.9 mmol) in absolute chloroform (1 ml) is added dropwise. After 4 days' stirring at ambient temperature the mixture is diluted with chloroform, washed with dilute aqueous sodium bicarbonate solution, the chloroform solution is dried and filtered and evaporated down in vacuo. The evaporation residue is purified by column chromatography on silica gel (chloroform/acetone=4/1).

reactant | ethyl 2-ethoxy-4-[N-(α-hydroxymethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate | 0.5 mmol, 0.227 g | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)CO | C26H34N2O5
reactant | triethylamine | 0.9 mmol, 0.126 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.9 mmol, 0.063 ml | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-ethoxy-4-[N-(α-acetoxymethyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoate | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)COC(C)=O | C28H36N2O6
